US06528525B1
3′-Hydroxybiphenyl-4-carboxylic acid
A solution of boron tribromide in dichloromethane (1N, 24.8 ml) was added to a solution of methyl 3′-methoxybiphenyl-4-carboxylate (2.00 g) in anhydrous dichloromethane (10 ml) at −70° C. The mixture was stirred at ambient temperature for 4 hours and a mixture of ice and water was added to the reaction mixture in an ice bath and then the mixture was stirred for 30 minutes. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and water and the layers were separated. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from a mixture of hexane and diisopropyl ether to afford the title compound (1.82 g) as pale yellow crystals.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methyl 3′-methoxybiphenyl-4-carboxylate | 2.00 g | COC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OC | C15H14O3
reactant | water | O | H2O
solvent | dichloromethane | 1N, 24.8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3′-Hydroxybiphenyl-4-carboxylic acid | 1.82 g | OC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)O | C13H10O3
